US06156700
Preparation of {{2-{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-6-fluoro-1,2-benzisoxazol-3-yl}-p-tolyl}oxy}acetic acid
A mixture of {{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-6-fluoro-1,2-benzisoxazol-3-yl}-p-tolyl}oxy}acetic acid, methyl ester (10.9 g, 0.0190 mol), 10% hydrochloric acid and acetic acid is stirred two hours at 90° C., cooled, poured into water and extracted with ethyl acetate. The organic layers are combined, washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to a foam. The foam is recrystallized from ethyl acetate to afford the title compound as a white solid (6.20 g, 66.2%, mp 123-126° C.).

reactant | {{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-6-fluoro-1,2-benzisoxazol-3-yl}-p-tolyl}oxy}acetic acid, methyl ester | 0.0190 mol, 10.9 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C(=CC2=C(C(=NO2)C2=C(C=CC(=C2)OCC(=O)OC)C)C1)F)=O | C23H17F4N3O6
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | {{2-{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-6-fluoro-1,2-benzisoxazol-3-yl}-p-tolyl}oxy}acetic acid | 6.20 g, 66.2% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C(=CC2=C(C(=NO2)C2=C(C=CC(=C2)OCC(=O)O)C)C1)F)=O | C22H15F4N3O6
